US04585768
2.71 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are dissolved in 30 ml of ethanol, and the solution is saturated with gaseous hydrogen chloride under ice-cooling. The saturated solution is stirred at room temperature for 20 hours. The solution is evaporated under reduced pressure at a temperature below 35° C. to remove solvent. The residue is dissolved in benzene, and the solution is extracted with conc. HCl-H2O. The aqueous layer is collected, washed with benzene, alkalized with potassium carbonate and then extracted with chloroform. The extract is washed with water, dried and then evaporated to remove solvent. Isopropyl ether is added to the residue, and crystalline precipitates are collected by filtration. 1.83 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained.

reactant | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-benzyloxycarbonyl-N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.71 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C(=O)OCC1=CC=CC=C1)C=CC(=C2)Cl | C27H27ClN2O5S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(N-methylamino)ethyl]-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.83 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCNC)C=CC(=C2)Cl | C19H21ClN2O3S
